US07687529B2
3-fluoro-N1-(2-fluorophenyl)benzene-1,2-diamine (0.44 g, 2 mmol) and carbonyl diimidazole (0.29 g, 1.8 mmol) in tetrahydrofuran (10 mL) was stirred at room temperature overnight. Upon disappearance of the starting material, the reaction was partitioned between 1 N hydrochloric acid (100 mL) and ethyl acetate (100 mL). The organics were dried over sodium sulfate and concentrated to give 4-fluoro-1-(2-fluorophenyl)-1,3-dihydro-2H-benzimidazol-2-one as a white solid in near quantitative yield. MS (ES) m/z 247.0

reactant | 3-fluoro-N1-(2-fluorophenyl)benzene-1,2-diamine | 2 mmol, 0.44 g | FC1=C(C(=CC=C1)NC1=C(C=CC=C1)F)N | C12H10F2N2
reactant | carbonyl diimidazole | 1.8 mmol, 0.29 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-fluoro-1-(2-fluorophenyl)-1,3-dihydro-2H-benzimidazol-2-one | quantitative yield | FC1=CC=CC=2N(C(NC21)=O)C2=C(C=CC=C2)F | C13H8F2N2O
